US05908840
3-Pyridinyl-boronic Acid
To -78° C. cooled n-BuLi (61 ml; 2.5 M hexane solution) was added 3-bromopyridine (20.0 g), dissolved in Et2O (-78° C.) (100 ml) by cannula during 5 minutes. After 10 minutes, a precooled (-78° C.) solution of trimethyl-borate (17.1 g) in Et2O (80 ml) was added. The reaction mixture was stirred at -78° C. for 1 hour, warmed to room temperature during 1 hour, and stirred at room temperature for 1/2 hour. To the reaction mixture was added 20 ml water and stirring continued. The resulting solid percipitate was collected and the supernatent concentrated to a residue. To the residue was added ethyl alcohol (100 ml) and acetic acid (8 ml) followed by heating at reflux for 35 minutes, cooling to room temperature and concentrating to dryness to give a pale yellow foamy material. The crude product was used directly in the next step.

reactant | n-BuLi | 2.5 M, 61 ml | [Li]CCCC
reactant | 3-bromopyridine | 20.0 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | trimethyl-borate | 17.1 g | COB(OC)OC | C3H9BO3
reactant | water | 20 ml | O | H2O
solvent | Et2O | 100 ml | CCOCC | C4H10O
solvent | Et2O | 80 ml | CCOCC | C4H10O
product | 3-Pyridinyl-boronic Acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
